US07816558B2
A toluene (0.5 ml) suspension of 20 mg of methyl 5-(3-cyano-4-{[(trifluoromethyl)sulfonyl]oxy}phenyl)thiophene-2-carboxylate and 10 mg of potassium carbonate was added to 15 mg of 3-aminobenzeneboronic acid monohydrate, and in an argon atmosphere, 8 mg of tetrakis(triphenylphosphine)palladium was added thereto. The mixture was stirred overnight at 100° C., then cooled to room temperature, and filtered through Celite. The solvent was evaporated under reduced pressure to obtain methyl 5-(3′-amino-2-cyanobiphenyl-4-yl)thiophene-2-carboxylate.

reactant | methyl 5-(3-cyano-4-{[(trifluoromethyl)sulfonyl]oxy}phenyl)thiophene-2-carboxylate | 20 mg | C(#N)C=1C=C(C=CC1OS(=O)(=O)C(F)(F)F)C1=CC=C(S1)C(=O)OC | C14H8F3NO5S2
reactant | potassium carbonate | 10 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-aminobenzeneboronic acid monohydrate | 15 mg | O.NC=1C=C(C=CC1)B(O)O
catalyst | tetrakis(triphenylphosphine)palladium | 8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 0.5 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 5-(3′-amino-2-cyanobiphenyl-4-yl)thiophene-2-carboxylate | NC=1C=C(C=CC1)C1=C(C=C(C=C1)C1=CC=C(S1)C(=O)OC)C#N | C19H14N2O2S
